US06191140B1
5-(3-bromo-4-fluorophenyl)-5,8,9,10-tetrahydro-1H-thiopyrano[3,4-b]quinoline-4,6(3H,7H)-dione
A mixture of thiopyran-3,5-dione (Fehnel, E. A., J. Amer. Chem. Soc., (1955), 77, 4241-4244) (0.12 g, 1.0 mmol), 3-bromo-4-fluorobenzaldehyde (0.20 g, 1.0 mmol), 3-amino-2-cyclohexene-1-one (0.11 g, 1.0 mmol) and ethanol (5 mL) was heated to 80° C. in a sealed tube for 60 hours and cooled to ambient temperature. The resulting solid was collected by filtration, washed with ethanol and fried for 16 hours under high vacuum to provide the title compound (0.13 g).

reactant | thiopyran-3,5-dione | 1.0 mmol, 0.12 g | S1CC(CC(C1)=O)=O | C5H6O2S
reactant | 3-bromo-4-fluorobenzaldehyde | 1.0 mmol, 0.20 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 3-amino-2-cyclohexene-1-one | 1.0 mmol, 0.11 g | NC1=CC(CCC1)=O | C6H9NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-(3-bromo-4-fluorophenyl)-5,8,9,10-tetrahydro-1H-thiopyrano[3,4-b]quinoline-4,6(3H,7H)-dione | 0.13 g | BrC=1C=C(C=CC1F)C1C2=C(NC=3CCCC(C13)=O)CSCC2=O | C18H15BrFNO2S
